US04454138
1-n-Butyl-3-ethyl-6-thioxanthine (4 g) was dissolved in dimethyl formamide (30 ml) and a small amount of potassium carbonate was added. To this mixture, 1-bromopropan-2-one (2,7 g) was added dropwise at room temperature, with stirring. The reaction was heated at about 50° C. for two hours. The reaction mixture was then extracted with chloroform several times, the chloroform phase washed with 1N KOH and water, dried with sodium sulphate, filtered and the chloroform removed in vacuo to yield a red/brown oil which, on crystallisation in a mixture of ethylacetate/petroleum, gave 1-n-butyl-3-ethyl-7-(2-oxopropyl)-6-thioxanthine as a white powder.

reactant | 1-n-Butyl-3-ethyl-6-thioxanthine | 4 g | C(CCC)N1C(=O)N(C=2N=CNC2C1=S)CC | C11H16N4OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropan-2-one | 2,7 g | BrCC(C)=O | C3H5BrO
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-n-butyl-3-ethyl-7-(2-oxopropyl)-6-thioxanthine | C(CCC)N1C(=O)N(C=2N=CN(C2C1=S)CC(C)=O)CC | C14H20N4O2S
